US05663161
b. N-Benzylbis(2-cyanoethyl)amine
A mixture of 50.0 g (0.406 mol) of bis(2-cyanoethyl)amine, 51.45 g (0.406 mol) of benzyl chloride, 1.0 g (6.7 mmol) of sodium iodide, 22.05 g (0.208 mol) of sodium carbonate and 150 mL of acetonitrile was stirred mechanically and heated at reflux under nitrogen for 5 h. The cooled reaction mixture was filtered and the solids were washed with acetonitrile (3×50 mL). The combined filtrates were concentrated by rotary evaporation. A solution of the residue in 100 mL of CH2Cl2 was washed with saturated aqueous Na2S2O3 (2×20 mL) and saturated aqueous NaCl (2×50 mL). The combined aqueous layers were extracted with CH2Cl2 (3×30 mL). The combined CH2Cl2 solutions were dried over MgSO4, filtered and concentrated by rotary evaporation. The residual solvent was removed under vacuum (0.5 mm), yielding 70.4 g (89%) of product as a light yellow oil. 1H NMR (CDCl3 /TMS) δ 7.34 (m, 5 H), 3.70 (s, 2 H), 2.88 (t, J=6.8 Hz, 4 H), 2.44 (t, J=6.8 Hz, 4 H). 13C NMR (CDCl3) δ 137.5, 128.3, 127.4, 118.4, 57.7, 49.1, 16.4. IR (film, cm- 1) 3070 (w), 3050 (m), 3020 (s), 2930 (s), 2830 (s), 2240 (s), 1595 (m), 1575 (w), 1485 (s), 1445 (s), 1415 (s), 1360 (br), 1250 (br), 1125 (s), 1070 (s), 1020 (s), 960 (s), 730 (s), 690 (s).

reactant | bis(2-cyanoethyl)amine | 0.406 mol, 50.0 g | C(#N)CCNCCC#N | C6H9N3
reactant | benzyl chloride | 0.406 mol, 51.45 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium carbonate | 0.208 mol, 22.05 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sodium iodide | 6.7 mmol, 1.0 g | [I-].[Na+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | N-Benzylbis(2-cyanoethyl)amine | 70.4 g, 89% | C(C1=CC=CC=C1)N(CCC#N)CCC#N | C13H15N3
